US08748434B2
a) Methyl-(5-o-tolyl-pyridazin-4-yl)-amine
The title compound was prepared in analogy to example 8, intermediate a, from 5-o-tolyl-pyridazin-4-ylamine and using a gradient of n-heptane:ethyl acetate (100:0 to 40:60) for the chromatographic purification. Light yellow solid (71%). MS (EI): m/z=199 ([M]).

reactant | 5-o-tolyl-pyridazin-4-ylamine | C1(=C(C=CC=C1)C=1C(=CN=NC1)N)C | C11H11N3
reactant | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | Methyl-(5-o-tolyl-pyridazin-4-yl)-amine | CNC1=CN=NC=C1C1=C(C=CC=C1)C | C12H13N3
